US07842685B2
Synthesis of 3-(((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)carbonyl)amino)-3-methylbutanoic acid
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (100 mg, 0.256 mmol) and 3-amino-3-methylbutanoic acid (36 mg, 0.307 mmol). MS (ESI) m/z: Calculated: 489.2; Observed: 490.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.256 mmol, 100 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | 3-amino-3-methylbutanoic acid | 0.307 mmol, 36 mg | NC(CC(=O)O)(C)C | C5H11NO2
product | 3-(((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)carbonyl)amino)-3-methylbutanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(=O)NC(CC(=O)O)(C)C | C27H24FN3O3S
